US06528666B1
A process according to claim 1, characterized by the fact that the flumethasone 21-acetate is reacted with methanolic potassium hydroxide in the absence of an oxidization agent to yield flumethasone.

reactant | flumethasone 21-acetate | C[C@@H]1C[C@H]2[C@@H]3C[C@@H](C4=CC(=O)C=C[C@@]4([C@]3([C@H](C[C@@]2([C@]1(C(=O)COC(=O)C)O)C)O)F)C)F | C24H30F2O6
reactant | potassium hydroxide | [OH-].[K+]
product | flumethasone | C[C@@H]1C[C@H]2[C@@H]3C[C@@H](C4=CC(=O)C=C[C@@]4([C@]3([C@H](C[C@@]2([C@]1(C(=O)CO)O)C)O)F)C)F | C22H28F2O5
